US06127368
297 mg of 6-amino-4-ethyl-β-carboline-3-carboxylic acid isopropyl ester and 88 mg of methyl isothiocyanate are refluxed for 2 hours in 20 ml of isopropanol. The solvent is distilled off in a vacuum, and the residue is recrystallized from ethyl acetate/ether. 257 mg of 4-ethyl-6-(3-ethyl-thioureido)-β-carboline-3-carboxylic acid-isopropyl ester with a melting point of 234-236° C. is obtained.

reactant | 6-amino-4-ethyl-β-carboline-3-carboxylic acid isopropyl ester | 297 mg | C(C)(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1CC)N | C17H19N3O2
reactant | methyl isothiocyanate | 88 mg | CN=C=S | C2H3NS
reactant | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 4-ethyl-6-(3-ethyl-thioureido)-β-carboline-3-carboxylic acid-isopropyl ester | 257 mg | C(C)(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1CC)NC(=S)NCC | C20H24N4O2S
